US04576949
A solution of 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid (2.19 g) in acetic anhydride (10 ml) is treated with 2-furaldehyde (1.0 ml) and sodium acetate (0.82 g). The solution is treated at reflux temperature for 24 hours. The residue from the solvent evaporation is dissolved in ethyl acetate, washed with brine solution, dried and evaporated to a semi-crystalline residue (30 g). Filtration through silica gel (150 g) with 9:1 Skelly B:ethyl acetate gives 8-(2-furanylmethylene)-5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester (1.40 g), m.p. 119° C.-120° C. after hexane crystallization.

reactant | 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid | 2.19 g | CC1=NC=2CCCCC2C=C1C(=O)O | C11H13NO2
reactant | 2-furaldehyde | 1.0 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium acetate | 0.82 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(2-furanylmethylene)-5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester | 1.40 g | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)=CC=1OC=CC1)C | C18H19NO3
